US06365602B1
N-[(S)-2-(3,4-Dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-ethyl-3-cyano-1-naphthamide
Using standard acylation conditions, 3-cyano-1-naphthoic acid (0.118 g) was converted to the acid chloride and reacted with N-[(S)-2-(3,4-dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-ethylamine (0.336 g) (prepared according to methods described for N-[(S)-2-(3,4-dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methylamine, except ethyl chloroformate was used in place of acetyl chloride for the amine acylation prior to amide reduction). mp 115-118° C. (dec); 1H NMR (300 MHz, DMSO-d6) δ 8.65 (d), 8.10 (m), 7.95-7.15 (m), 6.50 (m), 3.60 (s), 3.25-2.95 (m), 2.95-2.40 (m), 2.40-1.70 (m), 1.35 (m), 0.9 (m); MS APCI, m/z=646 (M+).

reactant | 3-cyano-1-naphthoic acid | 0.118 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)O | C12H7NO2
reactant | N-[(S)-2-(3,4-dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-ethylamine | 0.336 g | ClC=1C=C(C=CC1Cl)[C@@H](CNCC)CCN1CCC(CC1)C1=C(C=CC=C1)[S@@](=O)C | C24H32Cl2N2OS
reactant | N-[(S)-2-(3,4-dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methylamine | ClC=1C=C(C=CC1Cl)[C@@H](CNC)CCN1CCC(CC1)C1=C(C=CC=C1)[S@@](=O)C | C23H30Cl2N2OS
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | N-[(S)-2-(3,4-Dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-ethyl-3-cyano-1-naphthamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)CC)CCN1CCC(CC1)C1=C(C=CC=C1)[S@@](=O)C | C36H37Cl2N3O2S
